US07951838B2
To a slurry of (Z)-methyl 2-(tert-butoxycarbonyl)-3-(2,2-dimethylbenzo[d][1,3]dioxol-5-yl)acrylate (5000 mg, 14311 μmol) in 30 mL of MeOH was added [Rh(duanphos)cod]BF4 (101.1 mg, 143.1 μmol) followed by an additional 15 mL of methanol. The mixture was purged with hydrogen 3 times and then sealed at 50 psi of H2. After 3 hours reaction the reaction was concentrated and purified by silica gel chromatography to provide (S)-methyl 2-(tert-butoxycarbonyl)-3-(2,2-dimethylbenzo[d][1,3]dioxol-5-yl)propanoate (5000 mg, 99.43% yield) as a colorless oil.

reactant | (Z)-methyl 2-(tert-butoxycarbonyl)-3-(2,2-dimethylbenzo[d][1,3]dioxol-5-yl)acrylate | 14311 μmol, 5000 mg | C(C)(C)(C)OC(=O)\C(\C(=O)OC)=C/C1=CC2=C(OC(O2)(C)C)C=C1 | C18H22O6
solvent | MeOH | 30 mL | CO | CH4O
solvent | methanol | 15 mL | CO | CH4O
product | (S)-methyl 2-(tert-butoxycarbonyl)-3-(2,2-dimethylbenzo[d][1,3]dioxol-5-yl)propanoate | 5000 mg, 99.43% yield | C(C)(C)(C)OC(=O)[C@H](C(=O)OC)CC1=CC2=C(OC(O2)(C)C)C=C1 | C18H24O6
